US03944557
3.7 gms (.01 ml) of 2-amino-6-chloro-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride (compound 11 - Table 1) was dissolved in ethanol and 1.1 gm (.01 mole) thiophenol and 1.0 gm (0.01 mole) of triethylamine added. The solution was left 16 hours at room temperature poured into iced water and 2.3 gms (50% yield) of 2-amino-5-cyano-1-n-hexyl-4-n-hexylamino-6-phenylmercapto pyridinium chloride (compound 78 - Table 5) filtered off (MPt 227° -228°C).

reactant | 2-amino-6-chloro-5-cyano-1-n-hexyl-4-n-hexylamino pyridinium chloride | .01 ml, 3.7 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCC)C#N)Cl)CCCCCC
reactant | thiophenol | .01 mole, 1.1 gm | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.01 mole, 1.0 gm | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-amino-5-cyano-1-n-hexyl-4-n-hexylamino-6-phenylmercapto pyridinium chloride | 2.3 gms, 50% yield | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCCCC)C#N)SC1=CC=CC=C1)CCCCCC | InChI=1S/C24H34N4S.ClH/c1-3-5-7-12-16-27-22-18-23(26)28(17-13-8-6-4-2)24(21(22)19-25)29-20-14-10-9-11-15-20;/h9-11,14-15,18H,3-8,12-13,16-17H2,1-2H3,(H2,26,27);1H
